US07045514B2
4-Dimethylamino-6-methoxy-8-(4-methyl-piperazin-1-yl)-quinoline-2-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
To a suspension of 8-bromo-4-dimethylamino-6-methoxy-quinoline-2-carboxylic acid (4-morpholin-4-yl-phenyl)-amide Reference Example 28b) (139.9 mg, 0.288 mmol), N-methylpiperazine (48 μL, 0.43 mmol), and 4 Å sieves in 15 mL anhydrous toluene was added Pd2 (dba)2 (15.3 mg, 16.7 μmol), BINAP (63.0 mg, 0.101 mmol) and cesium carbonate (0.436 g, 1.345 mmol). The resulting wine colored mixture was heated at reflux under nitrogen for 20 hours. The reaction mixture was cooled to room temperature and concentrated. The crude mixture was purified by flash chromatography on silica gel using a gradient of 100:0 to 95:5 methylene chloride:methanol to afford the desired product as a yellow solid (96.9 mg, 67%). 1H NMR (300 MHz, DMSO, d6) δ 10.06 (s, 1 H, C(O)NH), 7.69 (d, 2 H, Jo=9.0 Hz, ArH2′& H6′), 7.58 (s, 1 H, ArH3), 7.58 (d, 2 H, Jo=9.0 Hz, ArH3′& H5′), 6.95 (d, 1 H, Jm=2.7 Hz, ArH5), 6.76 (d, 1 H, Jm=2.7 Hz, ArH7), 3.90 (s, 3 H, OCH3), 3.75 (t, 4 H, J=4.8 Hz, OCH2CH2N), 3.37 (bs, 4 H, ArNCH2CH2N), 3.10 (t, 4 H, J=4.8 Hz, OCH2CH2N), 3.01 (s, 6 H, N(CH3)2), 2.71 (bs, 4 H, ArNCH2CH2N), 2.35 (s, 3 H, R2NCH3); Mass Spec.: calc. for [C28H36N6O3+H]+ Theor. m/z=505; Obs.=505.5.

reactant | 8-bromo-4-dimethylamino-6-methoxy-quinoline-2-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C1=NC2=C(C=C(C=C2C(=C1)N(C)C)OC)Br | C23H25BrN4O3
reactant | N-methylpiperazine | 0.43 mmol, 48 μL | CN1CCNCC1 | C5H12N2
reactant | BINAP | 0.101 mmol, 63.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.345 mmol, 0.436 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Dimethylamino-6-methoxy-8-(4-methyl-piperazin-1-yl)-quinoline-2-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | 96.9 mg, 67% | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C1=NC2=C(C=C(C=C2C(=C1)N(C)C)OC)N1CCN(CC1)C | C28H36N6O3
